US05876945
Z-Leu-OH (15.92 g) and N-hydroxysuccinimide (6.9 g) were dissolved in dioxane and cooled to 0° C. To the cooled solution, DCC was added and stirred at 0° C. for 0.5 h, then room temp overnight. After filtering off the byproduct urea, the filtrate was concentrated to give crude Z-Leu-OSu as an oil.

reactant | Z-Leu-OH | 15.92 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | N-hydroxysuccinimide | 6.9 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Z-Leu-OSu | N([C@@H](CC(C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C18H22N2O6
